US08609688B2
Synthesis of N-[1-(3-bromophenyl)-4-piperidyl]acetamide
A mixture of 1,3-dibromobenzene (7.98 mL, 49.2 mmol), N-(4-piperidyl)acetamide (7.00 g, 49.2 mmol), Pd2(dba)3 (2.25 g, 2.46 mmol), (rac)-BINAP (2.30 g, 3.69 mmol) and sodium tert-butoxide (5.68 g, 59.1 mmol) in toluene (492 mL) was heated at 80° C. for 17 hours under nitrogen. After cooling to room temperature, the mixture was diluted with EtOAc and filtered through a Celite pad. The combined filtrate and washings were concentrated. The residue was purified by silica gel column chromatography (hexane/AcOEt=50:50 to 0:100) to afford the desired product (11.6 g, 80%) as pale orange solid.

reactant | 1,3-dibromobenzene | 49.2 mmol, 7.98 mL | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | N-(4-piperidyl)acetamide | 49.2 mmol, 7.00 g | N1CCC(CC1)NC(C)=O | C7H14N2O
reactant | sodium tert-butoxide | 59.1 mmol, 5.68 g | CC(C)([O-])C.[Na+]
solvent | toluene | 492 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 2.46 mmol, 2.25 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-[1-(3-bromophenyl)-4-piperidyl]acetamide | 11.6 g, 80% | BrC=1C=C(C=CC1)N1CCC(CC1)NC(C)=O | C13H17BrN2O
